US07691866B2
Step 2. Synthesis of 2-[(4-bromo-3-methylphenyl)amino]quinolin-6-ol
The mixture containing 2-chloroquinolin-6-ol (1eq), 4-bromo3-methylaniline (2 eq) and diisopropylethylamine in ethanol (1 M) was refluxed overnight. The resultant mixture was concentrated and purified on silica gel to provide the desired product. The mixture containing 2-chloroquinolin-6-ol (1 eq), 4-bromo3-methylaniline (2 eq) and diisopropylethylamine in ethanol (1M) was refluxed overnight. The resultant mixture was concentrated and purified on silica gel to provide the desired product.

reactant | 2-chloroquinolin-6-ol | 1eq | ClC1=NC2=CC=C(C=C2C=C1)O | C9H6ClNO
reactant | 4-bromo3-methylaniline | 2 eq | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 1 M | C(C)O | C2H6O
product | 2-[(4-bromo-3-methylphenyl)amino]quinolin-6-ol | BrC1=C(C=C(C=C1)NC1=NC2=CC=C(C=C2C=C1)O)C | C16H13BrN2O
